US06673799B1
trans-4-(2,5-Dimethylpiperazin-1-yl)-2-trifluoromethylbenzonitrile
A 1 g portion of 4-fluoro-2-trifluoromethylbenzonitrile and 2.4 g of trans-2,5-dimethylpiperazine were dissolved in 30 ml of DMF and heated at 80° C. for a whole day and night. The reaction solution was mixed with water, extracted with ethyl acetate and dried over anhydrous sodium sulfate, and then the solvent was evaporated under reduced pressure. The residue was purified by a silica gel column chromatography, and 1.3 g of the title compound was obtained from chloroform-methanol (10:1, v/v) eluate.

reactant | 4-fluoro-2-trifluoromethylbenzonitrile | FC1=CC(=C(C#N)C=C1)C(F)(F)F | C8H3F4N
reactant | trans-2,5-dimethylpiperazine | 2.4 g | C[C@@H]1NC[C@H](NC1)C | C6H14N2
reactant | water | O | H2O
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | trans-4-(2,5-Dimethylpiperazin-1-yl)-2-trifluoromethylbenzonitrile | 1.3 g | C[C@@H]1N(C[C@H](NC1)C)C1=CC(=C(C#N)C=C1)C(F)(F)F | C14H16F3N3
